US08242130B2
To a solution of 4-methoxyacetophenone (2.0 g, 13.3 mmol) and methyl 2,3-dimethoxybenzoate (3.135 g, 15.98 mmol) in DMF (100 mL), was added a NaH (1.065 g, 26.63 mmol) and the reaction mixture was stirred for 24 h at rt under N2. The reaction mixture was poured into ice water and products were extracted with EtOAc. The organic layer was separated, washed with water, dried and concentrated to afford 1-(2,3-dimethoxy-phenyl)-3-(4-methoxy-phenyl)-propane-1,3-dione (3.1 g, 74%).

reactant | 4-methoxyacetophenone | 13.3 mmol, 2.0 g | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | methyl 2,3-dimethoxybenzoate | 15.98 mmol, 3.135 g | COC1=C(C(=O)OC)C=CC=C1OC | C10H12O4
reactant | NaH | 26.63 mmol, 1.065 g | [H-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-(2,3-dimethoxy-phenyl)-3-(4-methoxy-phenyl)-propane-1,3-dione | 3.1 g, 74% | COC1=C(C=CC=C1OC)C(CC(=O)C1=CC=C(C=C1)OC)=O | C18H18O5
